US08623897B2
Synthesis of 2,11-Dicyclopropyl-dodecanedioic acid
Step 1—A solution of n-butyl lithium in hexane (1.4M, 16.9 mL, 0.09 mol) was added drop wise to a solution of freshly distilled diisopropylamine (3.1 mL, 0.02 mol) in dry THF (20 mL) at −60° C. under a nitrogen atmosphere. The reaction mixture was slowly warmed to −20° C. and stirred for 30 min. The reaction mixture was re-cooled to −60° C. and cyclopropanecarboxylic acid tert-butyl ester (3.1 g, 0.02 mol) was added drop wise over a period of 10 min. The reaction mixture was slowly warmed to −20° C. and stirred for 30 min. To the re-cooled (−60° C.) above reaction mixture was added drop wise 1,8-dibromoctane (2.0 g, 7.0 mmol) in dry THF (5 mL) and DMPU (0.46 mL, 3.2 mmol). Then, the temperature was allowed to reach room temperature and stirred at the same temperature over a period of 16 hours. The resulting reaction mixture was quenched with saturated NH4Cl (50 mL) at 0° C. and the reaction mixture extracted with ether (50 mL×3). The organic phases were combined, dried over anhydrous Na2SO4 and volatiles evaporated under reduced pressure to yield a pale, yellow liquid which was filtered through a silica gel (230-400) column (1.5% ethyl acetate in pet ether) to yield 1.96 g of a crude (70%) colorless oil. The compound was taken to the next step without further purification or characterization.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.09 mol, 1.4M, 16.9 mL | CCCCCC | C6H14
reactant | diisopropylamine | 0.02 mol, 3.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | cyclopropanecarboxylic acid tert-butyl ester | 0.02 mol, 3.1 g | C(C)(C)(C)OC(=O)C1CC1 | C8H14O2
reactant | 1,8-dibromoctane | 7.0 mmol, 2.0 g | BrCCCCCCCCBr | C8H16Br2
reactant | DMPU | 3.2 mmol, 0.46 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,11-Dicyclopropyl-dodecanedioic acid | 70% | C1(CC1)C(C(=O)O)CCCCCCCCC(C(=O)O)C1CC1 | C18H30O4
